US07700583B2
To a solution of (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (3.0 g, 11.01 mmol) and TEA (3.1 ml, 22.03 mmol) in dry THF (100 ml) was added dropwise chloroacetyl chloride (1.05 ml, 13.22 mmol). The mixture was stirred for 75 min. and evaporated followed by addition of water 75 (ml). The aqueous phase was extracted with EtOAc (2×50 ml) and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The resulting residue was dissolved in EtOAc (40 ml) and filtered through a 2.5 cm path of silicagel. The filtrated was evaporated to dryness affording 3.3 g (86%) of 2-chloro-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide as an oil.

reactant | (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 11.01 mmol, 3.0 g | NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C17H24N2O
reactant | chloroacetyl chloride | 13.22 mmol, 1.05 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-chloro-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide | 3.3 g, 86% | ClCC(=O)NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C19H25ClN2O2
